US07196111B2
A solution of 0.56 mL (3.22 mmol) of 3-oxo-3-phenyl-propionic acid ethyl ester and 0.50 g (3.22 mmol) 5-amino-2H-pyrazole-3-carboxylic acid ethyl ester in 4 mL of acetic acid (HOAc) was heated at reflux for 4 h, during which time a precipitate formed. The precipitate was filtered off, washed with ethyl acetate and dried to give 0.51 g (56% yield) of 7-oxo-5-phenyl-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid ethyl ester as a solid as indicated by 1H NMR; LC-MS—calcd for C15H13N3O3 [M++H]+: 284.1, found: 284.1.

reactant | 3-oxo-3-phenyl-propionic acid ethyl ester | 3.22 mmol, 0.56 mL | C(C)OC(CC(C1=CC=CC=C1)=O)=O | C11H12O3
reactant | 5-amino-2H-pyrazole-3-carboxylic acid ethyl ester | 3.22 mmol, 0.50 g | C(C)OC(=O)C=1NN=C(C1)N | C6H9N3O2
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 7-oxo-5-phenyl-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid ethyl ester | 0.51 g, 56% yield | C(C)OC(=O)C1=NN2C(NC(=CC2=O)C2=CC=CC=C2)=C1 | C15H13N3O3
